US06077953
Two mililiters (2 ml) of a mixture of sulfuric acid and water (v/v=1/1), and 0.5 g of 2-(4-chlorophenyl)-6-ethoxycarbonyl-5-trifluoromethylpyridazin-3-one (the present compound 1-51) were mixed and heated for 5 hours on a 150° C. oil bath. The reaction solution was cooled to room temperature, poured into water and extracted with 100 ml of ethyl acetate. The organic layer was washed with 50 ml of saturated sodium chloride solution twice and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the obtained crystals were washed with 50 ml of n-hexane to afford 0.18 g of 2-(4-chlorophenyl)-5-trifluoromethylpyridazin-3-one (yield:45%).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-chlorophenyl)-6-ethoxycarbonyl-5-trifluoromethylpyridazin-3-one | 0.5 g | ClC1=CC=C(C=C1)N1N=C(C(=CC1=O)C(F)(F)F)C(=O)OCC | C14H10ClF3N2O3
solvent | water | O | H2O
product | 2-(4-chlorophenyl)-5-trifluoromethylpyridazin-3-one | 0.18 g, yield:45% | ClC1=CC=C(C=C1)N1N=CC(=CC1=O)C(F)(F)F | C11H6ClF3N2O
